US08440693B2
Intermediate 169.2: 4-[1-(4-Iodo-phenyl)-ethyl]-3-oxo-piperazine-1-carboxylic acid tert-butyl ester
To a solution of Boc-3-oxopiperazine (67 mg, 0.328 mmol) in DMF (3 mL) was added NaH (60% in mineral oil, 13 mg, 0.328 mmol). After cooling to 0° C., 1-(1-Bromo-ethyl)-4-iodo-benzene (100 mg, 0.273 mmol) was added. The ice bath was removed and the mixture stirred at RT for 2 h and then partitioned between EtOAc and a solution of NH4Cl. After separation, the aqueous phase was re-extracted twice with DCM and the combined organic extracts were washed with H2O, saturated brine, dried over Na2SO4, filtered and evaporated to dryness. The resulting crude material was purified by Combi-Flash Companion™ (Isco Inc.) column chromatography (SiO2; gradient elution, DCM/EtOac] 1:0→0:1)) to yield the title intermediate (90 mg, 0.188 mmol, 68%) as a colorless solid. HPLC: FtRet=1.276.

reactant | Boc-3-oxopiperazine | 0.328 mmol, 67 mg | C(=O)(OC(C)(C)C)N1CC(NCC1)=O | C9H16N2O3
reactant | NaH | 0.328 mmol, 13 mg | [H-].[Na+]
reactant | 1-(1-Bromo-ethyl)-4-iodo-benzene | 0.273 mmol, 100 mg | BrC(C)C1=CC=C(C=C1)I | C8H8BrI
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 4-[1-(4-Iodo-phenyl)-ethyl]-3-oxo-piperazine-1-carboxylic acid tert-butyl ester | 0.188 mmol, 90 mg, 68% | C(C)(C)(C)OC(=O)N1CC(N(CC1)C(C)C1=CC=C(C=C1)I)=O | C17H23IN2O3
